US05589467
This compound was prepared by general method C, described in more detail in Example 2. 2-Chloro-N-(1-piperidinyl)adenosine [WO 93/08206 (Novo Nordisk A/S)] (3.08 g, 8 mmol) was subjected to the same reaction conditions described above, except that thionyl bromide was substituted for thionyl chloride. The procedure provided the desired 5'-bromo-2-chloro-5'-deoxy-N-(1-piperidinyl)adenosine as a foam (0.19 g, 9%) after column chromatography, 1H-NMR (400 MHz, DMSO-d6) δ1.37 (2H, br, piperidine C--H), 1.62 (4H, m, piperidine C--H), 2.80 (4H, br, piperidine C--H), 3.72, 3.82 (2H, ABX, H-5'a and H-5'b), 4.10 (1H, dt, H-4'), 4.17 (1H, dt, H-3'), 4.68 (1H, q, H-2'), 5.50, 5.62 (1H, 2d, 2'- and 3'-OH), 5.88 (1H, d, H-1'), 8.38 (1H, s, H-8), 9.36 (1H, br, NH). HPLC retention time 11.06 min. (gradient elution over 30 min.; 20-80% acetonitrile/0.1% TFA in water, 96.4% purity at 250 nm). C15H20N6BrClO3.1.3 H2O requires C, 38.2; H, 4.8; N, 17.8. Found: C, 38.7; H, 4.7; N, 17.3%.

reactant | 2-Chloro-N-(1-piperidinyl)adenosine | ClC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)NN1CCCCC1 | C15H21ClN6O4
reactant | thionyl bromide | S(=O)(Br)Br | Br2OS
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 5'-bromo-2-chloro-5'-deoxy-N-(1-piperidinyl)adenosine | 0.19 g, 9% | BrC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(NN3CCCCC3)=NC(=NC12)Cl)O)O | C15H20BrClN6O3
